US06576637B1
0.06 mmol of 3-nitrobenzaldehyde, 5.72 g of malonic acid, 8.5 g of ammonium acetate and 40 ml of ethanol are boiled under reflux for 8 hours and stirred at room temperature overnight. The cooled reaction mixture is then filtered with suction, washed with ethanol and ether and dried in air. 3-amino-3-(3-nitrophenyl)propionic acid is obtained. Subsequent N-acylation with phenylacetyl chloride under standard conditions produces 3-(3-nitrophenyl)-3-phenylacetyl-aminopropionic acid. This racemate is dissolved in 40 ml of water, and the solution is adjusted to pH 7.5 with potassium hydroxide. The enzyme penicillin amidase is added and shaken for 3 days. Removal of the enzyme by filtration and the usual workup result in (R)-3-amino-3-(3-nitrophenyl)propionic acid and (S)-3-(3-nitrophenyl)-3-phenylacetylaminopropionic acid.

reactant | 3-nitrobenzaldehyde | 0.06 mmol | [N+](=O)([O-])C=1C=C(C=O)C=CC1 | C7H5NO3
reactant | malonic acid | 5.72 g | C(CC(=O)O)(=O)O | C3H4O4
reactant | ammonium acetate | 8.5 g | C(C)(=O)[O-].[NH4+]
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | 3-amino-3-(3-nitrophenyl)propionic acid | NC(CC(=O)O)C1=CC(=CC=C1)[N+](=O)[O-] | C9H10N2O4
